US04837392
Starting from 10.4 g (29.5 mmol) of tris(4-methoxyphenyl)phosphine and 6.7 g (48 mmol, 1.6 eq) of methyl iodide, 13.6 g (27.5 mmol, 93.3%) of methyltris(4-methoxyphenyl)phosphonium iodide was obtained: mp 220.1°-221.9° C.;

reactant | tris(4-methoxyphenyl)phosphine | 29.5 mmol, 10.4 g | COC1=CC=C(C=C1)P(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C21H21O3P
reactant | methyl iodide | 48 mmol, 6.7 g, 1.6 eq | CI | CH3I
product | methyltris(4-methoxyphenyl)phosphonium iodide | 27.5 mmol, 13.6 g, 93.3% | [I-].C[P+](C1=CC=C(C=C1)OC)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | InChI=1S/C22H24O3P.HI/c1-23-17-5-11-20(12-6-17)26(4,21-13-7-18(24-2)8-14-21)22-15-9-19(25-3)10-16-22;/h5-16H,1-4H3;1H/q+1;/p-1
